US07067540B2
To an ice-cold solution of 3-cyanobenzaldehyde (5.0 g, 38 mmol) in 1:1 MeOH/THF (90 mL) was added NaBH4 (1.6 g, 42 mmol), and the reaction mixture was stirred for 3 h. The reaction mixture was diluted with brine, and the solvent was removed under reduced pressure. The residue was dissolved in water, and the aqueous layer was extracted with Et2O (3×100 mL). The combined organics were washed with brine, dried (MgSO4), filtered, and concentrated under reduced pressure to provide 3-hydroxymethyl-benzonitrile (4.95 g, 98%) as a clear oil, which was used in the next step without further purification or characterization.

reactant | 3-cyanobenzaldehyde | 38 mmol, 5.0 g | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
reactant | MeOH THF | 90 mL | CO.C1CCOC1
reactant | NaBH4 | 42 mmol, 1.6 g | [BH4-].[Na+]
solvent | brine | [Cl-].[Na+].O
product | 3-hydroxymethyl-benzonitrile | 4.95 g, 98% | OCC=1C=C(C#N)C=CC1 | C8H7NO
